US04117128
Acylation of 5-chloro-2-phenylbenzofuran with 4-methoxybenzenesulfonyl chloride as described in Example 1 followed by demethylation of the 5-chloro-3-(4-methoxyphenylsulfonyl)-2-phenylbenzofuran thus formed also as described therein, gives 5-chloro-3-(4-hydroxyphenylsulfonyl)-2-phenylbenzofuran.

reactant | 5-chloro-2-phenylbenzofuran | ClC=1C=CC2=C(C=C(O2)C2=CC=CC=C2)C1 | C14H9ClO
reactant | 4-methoxybenzenesulfonyl chloride | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | 5-chloro-3-(4-methoxyphenylsulfonyl)-2-phenylbenzofuran | ClC=1C=CC2=C(C(=C(O2)C2=CC=CC=C2)S(=O)(=O)C2=CC=C(C=C2)OC)C1 | C21H15ClO4S
product | 5-chloro-3-(4-hydroxyphenylsulfonyl)-2-phenylbenzofuran | ClC=1C=CC2=C(C(=C(O2)C2=CC=CC=C2)S(=O)(=O)C2=CC=C(C=C2)O)C1 | C20H13ClO4S
